US08334286B2
Octahydro-pyrido[1,2-a]pyrazin-6-one
4-Pyrazin-2-yl-butyric acid ethyl ester (1 g, 5.14 mmol) was dissolved in abs. EtOH (50 ml) and hydrogenated over 10% Pd/C (200 mg) at 50 psi for 20 hours. After filtration, the solvent was removed under vacuum and the residue was purified by flash chromatography (DCM/MeOH/32% NH4OH from 95/5/0.5 to 90/10/1 respectively) to afford the title compound (454 mg, 57% yield).

reactant | 4-Pyrazin-2-yl-butyric acid ethyl ester | 5.14 mmol, 1 g | C(C)OC(CCCC1=NC=CN=C1)=O | C10H14N2O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | EtOH | 50 ml | CCO | C2H6O
product | Octahydro-pyrido[1,2-a]pyrazin-6-one | 454 mg, 57% yield | C1C2N(CCN1)C(CCC2)=O | C8H14N2O
